* C:\Users\jcasa\Documents\projects\UFEPR\ltspice\current divider.asc
C1 N002 0 {Cp}
L1 N002 P001 .902µ
R1 P001 0 .1
V1 N001 0 SINE() AC 90 Rser=50
C3 N002 N001 {Cs}
.ac dec 100 1e7 2e7
.param Cs=8.6p
.param Cp=122.8p
.backanno
.end
